US08048909B2
Ethyl 5-(4-fluorophenyl)-1-(phenylsulfonyl)-1H-pyrrole-3-carboxylate
Using 4-fluorophenacyl bromide instead of phenacyl bromide, a procedure as in Reference Example 1 was performed to synthesize ethyl 2-cyano-4-(4-fluorophenyl)-4-oxobutanoate, and procedures as in Reference Examples 2 and 3 were performed to synthesize ethyl 5-(4-fluorophenyl)-1H-pyrrole-3-carboxylate. Sodium hydride (60% in oil, 0.32 g) was added to a solution (20 mL) of ethyl 5-(4-fluorophenyl)-1H-pyrrole-3-carboxylate (1.56 g) in N,N-dimethylformamide under ice-cooling. The mixture was stirred at the same temperature for 15 min, added benzenesulfonyl chloride (1.41 g), and the mixture was stirred at room temperature for 18 hr. Water was added to the reaction mixture, and the mixture was extracted with diethyl ether. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=4:1→7:2) to give the title compound as crystals (yield 1.70 g, 68%).

reactant | 4-fluorophenacyl bromide | FC1=CC=C(C(CBr)=O)C=C1 | C8H6BrFO
reactant | ethyl 2-cyano-4-(4-fluorophenyl)-4-oxobutanoate | C(#N)C(C(=O)OCC)CC(=O)C1=CC=C(C=C1)F | C13H12FNO3
reactant | ethyl 5-(4-fluorophenyl)-1H-pyrrole-3-carboxylate | FC1=CC=C(C=C1)C1=CC(=CN1)C(=O)OCC | C13H12FNO2
reactant | Sodium hydride | 0.32 g | [H-].[Na+]
reactant | ethyl 5-(4-fluorophenyl)-1H-pyrrole-3-carboxylate | 20 mL, 1.56 g | FC1=CC=C(C=C1)C1=CC(=CN1)C(=O)OCC | C13H12FNO2
reactant | benzenesulfonyl chloride | 1.41 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | Ethyl 5-(4-fluorophenyl)-1-(phenylsulfonyl)-1H-pyrrole-3-carboxylate | yield 1.70 g, 68% | FC1=CC=C(C=C1)C1=CC(=CN1S(=O)(=O)C1=CC=CC=C1)C(=O)OCC | C19H16FNO4S
